US04136256
Preparation of 4-(15-methylhexadecyl)aminobenzoic acid
A solution of 3.5 g. of ethyl 4-(15-methylhexadecyl)aminobenzoate and 1.7 g. of 85% potassium hydroxide in 50 ml. of 95% ethanol is heated at reflux for 5 hours. The warm solution is diluted with 100 ml. water and adjusted to pH5 with 37% hydrochloric acid. The precipitate is collected, dried, and crystallized from acetic acid to yield the title compound as an amorphous, cream-colored solid.

reactant | ethyl 4-(15-methylhexadecyl)aminobenzoate | CC(CCCCCCCCCCCCCCNC1=CC=C(C(=O)OCC)C=C1)C | C26H45NO2
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-(15-methylhexadecyl)aminobenzoic acid | CC(CCCCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1)C | C24H41NO2
